### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): add IsCompleteMultipartite definition and related results

### PR DESCRIPTION
**Pull request by jt496**
A graph is complete multipartite if non-adjacency is transitive. 

We add this definition, the associated Setoid, and the graph isomorphism to the corresponding completeMultipartiteGraph. 

We also add the definition of a minimal witness to non-complete-multipartiteness: IsP2Complement. 

We will need this for our proof of the Andrásfai–Erdős–Sós theorem, where the interesting case is when the graph is not complete-multipartite.

Co-authored-by: Lian Tattersall <lian.tattersall.20@alumni.ucl.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+   non-complete-multi-partite-ness of a graph G. (The name refers to the fact that the three
+   vertices form the complement of a path of length two.)
+-/
+
+universe u
+namespace SimpleGraph
+variable {α : Type u}
+
+/-- `G` is `IsCompleteMultipartite` iff non-adjacency is transitive -/
+abbrev IsCompleteMultipartite (G : SimpleGraph α) : Prop := Transitive (¬ G.Adj · ·)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:32]: It seems to me that the `abbrev`s in this file should be defs

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 2]
```diff
@@ -0,0 +1,107 @@
...
+
+lemma IsCompleteMultipartite.colorable_of_cliqueFree {n : ℕ} (h : G.IsCompleteMultipartite)
+    (hc : G.CliqueFree n) : G.Colorable (n - 1) :=
+    (completeMultipartiteGraph.colorable_of_cliqueFree _ (fun _ ↦ ⟨_, h.setoid.refl _⟩)
+          <| hc.comap h.iso.symm.toEmbedding).of_embedding h.iso.toEmbedding
+
+variable (G) in
+/--
+The vertices `v, w₁, w₂` form an `IsP2Complement` in `G` iff `w₁w₂` is the only edge present between
+these three vertices. It is a witness to the non-complete-multipartite-ness of `G`
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:75]: These are in bijection with induced copies of P2 in G; but I think the explicit definition will be easier to work with. So let's mention that bijection, and add a TODO to prove the equivalence?

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 3]
```diff
@@ -0,0 +1,107 @@
...
+namespace SimpleGraph
+variable {α : Type u}
+
+/-- `G` is `IsCompleteMultipartite` iff non-adjacency is transitive -/
+abbrev IsCompleteMultipartite (G : SimpleGraph α) : Prop := Transitive (¬ G.Adj · ·)
+
+variable {G : SimpleGraph α}
+/-- The setoid given by non-adjacency -/
+abbrev IsCompleteMultipartite.setoid (h : G.IsCompleteMultipartite) : Setoid α :=
+    ⟨(¬ G.Adj · ·), ⟨G.loopless , fun h' ↦ by rwa [adj_comm] at h', fun h1 h2 ↦ h h1 h2⟩⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:37]:
```suggestion
    ⟨(¬ G.Adj · ·), ⟨G.loopless, fun h' ↦ by rwa [adj_comm] at h', fun h1 h2 ↦ h h1 h2⟩⟩
```

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 4]
```diff
@@ -0,0 +1,107 @@
...
+    rw [not_not]
+
+lemma isCompleteMultipartite_iff : G.IsCompleteMultipartite ↔ ∃ (ι : Type u) (V : ι → Type u)
+    (_ : ∀ i, Nonempty (V i)), Nonempty (G ≃g (completeMultipartiteGraph V)) := by
+  constructor <;> intro h
+  · exact ⟨_, _, fun _ ↦ ⟨_, h.setoid.refl _⟩, ⟨h.iso⟩⟩
+  · obtain ⟨_, _, _, ⟨e⟩⟩ := h
+    intro _ _ _ h1 h2
+    rw [← e.map_rel_iff] at *
+    exact (completeMultipartiteGraph.isCompleteMultipartite _) h1 h2
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:65]:
```suggestion
    exact completeMultipartiteGraph.isCompleteMultipartite _ h1 h2
```

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 5]
```diff
@@ -0,0 +1,107 @@
...
+  rw [IsCompleteMultipartite, Transitive] at h
+  push_neg at h
+  obtain ⟨_, _, _, h1, h2, h3⟩ := h
+  rw [adj_comm] at h1
+  exact ⟨_, _, _, h3, h1, h2⟩
+
+lemma not_isCompleteMultipartite_iff_exists_isP2Complement :
+    ¬ IsCompleteMultipartite G ↔ ∃ v w₁ w₂, G.IsP2Complement v w₁ w₂ :=
+  ⟨fun h ↦ G.exists_isP2Complement_of_not_isCompleteMultipartite h,
+      fun ⟨_, _, _, h1, h2, h3⟩ ↦ fun h ↦ h (by rwa [adj_comm] at h2) h3 h1⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:105]:
```suggestion
  ⟨fun h ↦ G.exists_isP2Complement_of_not_isCompleteMultipartite h,
   fun ⟨_, _, _, h1, h2, h3⟩ ↦ fun h ↦ h (by rwa [adj_comm] at h2) h3 h1⟩
```

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 6]
```diff
@@ -0,0 +1,152 @@
...
+def IsCompleteMultipartite.setoid (h : G.IsCompleteMultipartite) : Setoid α :=
+    ⟨(¬ G.Adj · ·), ⟨G.loopless, fun h' ↦ by rwa [adj_comm] at h', fun h1 h2 ↦ h h1 h2⟩⟩
+
+lemma completeMultipartiteGraph.isCompleteMultipartite {ι : Type*} (V : ι → Type*) :
+    (completeMultipartiteGraph V).IsCompleteMultipartite := by
+  intro
+  aesop
+
+/-- The graph isomorphism from a graph `G` that `IsCompleteMultipartite` to the corresponding
+`completeMultipartiteGraph` -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:46]: Optional, but I think it could be nice to reference `isCompleteMultipartite_iff` here, since the forward direction of that equivalence seems like a version of this which is more abstract and potentially easier to actually use

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 7]
```diff
@@ -0,0 +1,152 @@
...
+  left_inv := fun _ ↦ rfl
+  right_inv := fun ⟨_, x⟩ ↦ Sigma.subtype_ext (Quotient.mk_eq_iff_out.2 <| h.setoid.symm x.2) rfl
+  map_rel_iff' := by
+    simp_rw [Equiv.coe_fn_mk, comap_adj, top_adj, ne_eq, Quotient.eq]
+    intros
+    change ¬¬ G.Adj _ _ ↔ _
+    rw [not_not]
+
+lemma isCompleteMultipartite_iff : G.IsCompleteMultipartite ↔ ∃ (ι : Type u) (V : ι → Type u)
+    (_ : ∀ i, Nonempty (V i)), Nonempty (G ≃g (completeMultipartiteGraph V)) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:60]:
```suggestion
    (_ : ∀ i, Nonempty (V i)), Nonempty (G ≃g completeMultipartiteGraph V) := by
```

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 8]
```diff
@@ -0,0 +1,152 @@
...
+
+lemma IsCompleteMultipartite.colorable_of_cliqueFree {n : ℕ} (h : G.IsCompleteMultipartite)
+    (hc : G.CliqueFree n) : G.Colorable (n - 1) :=
+    (completeMultipartiteGraph.colorable_of_cliqueFree _ (fun _ ↦ ⟨_, h.setoid.refl _⟩)
+          <| hc.comap h.iso.symm.toEmbedding).of_embedding h.iso.toEmbedding
+
+variable (G) in
+/--
+The vertices `v, w₁, w₂` form an `IsPathGraph3Compl` in `G` iff `w₁w₂` is the only edge present
+between these three vertices. It is a witness to the non-complete-multipartite-ness of `G`
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:76]:
```suggestion
The vertices `v, w₁, w₂` form an `IsPathGraph3Compl` in `G` iff `w₁w₂` is the only edge present
between these three vertices. It is a witness to the non-complete-multipartite-ness of `G`.
This structure is an explicit way of describing that induced graph on `{v, w₁, w₂}` is the complement of `P3`.
```

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:76]: (or similar, to explain the name)

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 9]
```diff
@@ -0,0 +1,152 @@
...
+-/
+structure IsPathGraph3Compl (v w₁ w₂ : α) : Prop where
+  adj : G.Adj w₁ w₂
+  not_adj : ¬ G.Adj v w₁ ∧ ¬ G.Adj v w₂
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:80]: I'd guess it's nicer to split this into two fields, rather than a single conjunction field?

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 10]
```diff
@@ -0,0 +1,152 @@
...
+
+namespace IsPathGraph3Compl
+
+variable {v w₁ w₂ : α}
+
+lemma ne (h2 : G.IsPathGraph3Compl v w₁ w₂) : v ≠ w₁ ∧ v ≠ w₂ :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:86]: I think it's better to give three lemmas here, one saying `v ≠ w₁`, another saying `v ≠ w₂` and a third saying `w₁ ≠ w₂` (the last of which you don't currently explicitly prove but it's easy to deduce).

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 11]
```diff
@@ -0,0 +1,152 @@
...
+  ⟨fun h ↦ h2.not_adj.2 (h.symm ▸ h2.adj), fun h ↦ h2.not_adj.1 (h ▸ h2.adj.symm)⟩
+
+lemma symm (h : G.IsPathGraph3Compl v w₁ w₂) : G.IsPathGraph3Compl v w₂ w₁ := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:89]:
```suggestion
@[symm] lemma symm (h : G.IsPathGraph3Compl v w₁ w₂) : G.IsPathGraph3Compl v w₂ w₁ := by
```
Optional: I'm not sure if this works or is helpful

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:76]: Also let's maybe explicitly reference `not_isCompleteMultipartite_iff_exists_isPathGraph3Compl` here when you talk about the witness bit

**Review by b-mehta — APPROVED** [review]

**Comment by b-mehta** [comment]
Nice, thanks!

bors merge
